US08530521B2
Step B: N-{[(1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentyl]carbonyl}-L-valine
To a solution of methyl N-{[(1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentyl]carbonyl}-L-valinate (1.04 g, 3.27 mmol) in EtOH (10 mL) was added NaOH (5.0 N, 1.0 mL). After stirring at rt overnight, the mixture was partitioned between Et2O/H2O. The aq layer was extracted and acidified using 5.0 N HCl until pH-3 and then extracted with Et2O (50 mL). The organic layer was washed with brine (2×50 mL), dried over Na2SO4, and concentrated to give the title compound as a white solid (810 mg, yield 81%): 1H NMR (500 MHz, CDCl3) δ 6.70 (d, J=8.4, 1H), 5.40 (d, J=6.0, 1H), 4.53 (dd, J=4.6, 8.5, 1H), 3.93 (m, 1H), 3.48 (s, 3H), 3.03-2.96 (m, 1H), 2.53-2.46 (m, 1H), 2.38-2.20 (m, 3H), 2.08-2.02 (m, 1H), 1.01 (d, J=6.9, 3H), 0.97 (d, J=6.9, 3H).

reactant | methyl N-{[(1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentyl]carbonyl}-L-valinate | 3.27 mmol, 1.04 g | CO[C@H]1C[C@H](C[C@@H]1O[N+](=O)[O-])C(=O)N[C@@H](C(C)C)C(=O)OC | C13H22N2O7
reactant | NaOH | 5.0 N, 1.0 mL | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-{[(1R,3S,4S)-3-methoxy-4-(nitrooxy)cyclopentyl]carbonyl}-L-valine | 810 mg, yield 81% | CO[C@H]1C[C@H](C[C@@H]1O[N+](=O)[O-])C(=O)N[C@@H](C(C)C)C(=O)O | C12H20N2O7
